US08039469B2
Preparation of 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-thiophen-2-ylurea
Starting from 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline (60 mg, 0.17 mmoles) and 2-thienyl isocyanate (18 mg, 0.14 mmoles), the title compound was isolated as a grey solid after Silica gel column chromatography by eluting with 5% ethyl acetate: methanol. Yield: 12 mg (14%); (M+H)=470.

reactant | 4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)aniline | 0.17 mmoles, 60 mg | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(N)C=C1 | C17H22N6O2
reactant | 2-thienyl isocyanate | 0.14 mmoles, 18 mg | S1C(=CC=C1)N=C=O | C5H3NOS
product | 1-[4-(4,6-dimorpholin-4-yl-1,3,5-triazin-2-yl)phenyl]-3-thiophen-2-ylurea | N1(CCOCC1)C1=NC(=NC(=N1)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC=1SC=CC1 | C22H25N7O3S
